data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5096,5785,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C:26](=[O:27])[NH:28][CH3:29]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:26](=[O:27])[NH:28][CH3:29])[NH:14][C:15]2([C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,15.900556092616515,-16.019092142885086
3138,3536,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8]#[N+:9][N-:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:9]=[C:8]1[CH3:7],water,298.15,16.499160945176286,-30.21273853372201
1409,1551,[CH2-:11][O+:12]=[C:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH2:11][O:12][C:13]2([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,3.716055669883672,-69.07273022411832
1465,1614,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:17]([C:18](=[O:19])[O:20][CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:16]=[C:15]3[C:13]([O:12][CH3:11])=[O:14],water,298.15,10.863889363185171,-57.11768262891717
2046,2271,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:23]([C:24]#[N:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:21]([CH3:22])[CH:20]3[C:18]([NH:17][CH3:16])=[O:19],water,298.15,12.187119436663586,-44.101546480584375
4723,5392,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C:12](=[O+:13][C-:14]([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24]([CH3:25])=[O:26]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:14]([C:15]([CH3:16])=[O:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:13][C:12]2([C:10]([CH3:9])=[O:11])[C:24]([CH3:25])=[O:26],water,298.15,14.264839436884882,-34.546214959186656
4451,5083,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:15]=[C:16]1[C:17]#[N:18],water,298.15,11.969115168481927,-34.885754525185824
2558,2838,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21](=[O:22])[O:23][CH3:24])=[N+:25]([CH3:26])[C-:27]([C:28]([CH3:29])=[O:30])[C:31](=[O:32])[NH:33][CH3:34].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([F:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([F:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21](=[O:22])[O:23][CH3:24])[N:25]([CH3:26])[C:27]2([C:28]([CH3:29])=[O:30])[C:31](=[O:32])[NH:33][CH3:34],water,298.15,38.993838266230775,-30.71011576434051
1745,1932,[CH3:15][C:16](=[O:17])[C:18](=[NH+:19][C-:20]([CH3:21])[CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:20]([CH3:21])([CH3:22])[NH:19][C:18]2([C:16]([CH3:15])=[O:17])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,25.90932099888689,-38.861609156935145
4527,5167,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[NH:23][CH3:24])[NH:16][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,17.932895501085092,-14.817336685359829
3677,4197,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[NH-:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[NH:19][N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,24.38344347118589,-7.240764607195152
